US07312359B2
Methanesulfonic acid 2-(6-benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-ethyl ester (0.250 g, 0.634 mmol), imidazole (0.173 g, 2.54 mmol), potassium carbonate (0.175 g, 1.27 mmol) and potassium iodide (0.25 g) were added to 50 mL of acetonitrile, and the reaction mixture was refluxed for 16 hours under argon. The reaction mixture was cooled and poured into 300 mL of water, extracted twice with 250 mL of EtOAc, and the combined organic layers were washed with water, saturated brine, and dried (MgSO4). The solvet was removed under reduced pressure to yield an oil that was purified via silica gel column, eluting with MeOH/CHCl3 (5:95). Solvent was removed under reduced pressure to afford 0.180 g (0.491 mmol, 77.5% of 1-[2-(6-benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-ethyl]-1H-imidazole as an oil. The oil was recrystallized from EtOH/HC to give 0.130 g of the corresponding hydrochloride salt (0.323 mol, 50.9%). MS: 367 (M+H)+.

reactant | Methanesulfonic acid 2-(6-benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-ethyl ester | 0.634 mmol, 0.250 g | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2CCCC(C2=CC1)CCOS(=O)(=O)C | C19H22O5S2
reactant | imidazole | 2.54 mmol, 0.173 g | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 1.27 mmol, 0.175 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.25 g | [I-].[K+]
solvent | water | 300 mL | O | H2O
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 1-[2-(6-benzenesulfonyl-1,2,3,4-tetrahydro-naphthalen-1-yl)-ethyl]-1H-imidazole | 0.491 mmol, 77.5% | C1(=CC=CC=C1)S(=O)(=O)C=1C=C2CCCC(C2=CC1)CCN1C=NC=C1 | C21H22N2O2S
